US07956028B2
Preparation of Trehalose/Glycine Solution:
17.84 g of trehalose dihydrate and 4.03 g of glycine were carefully weighed and transferred into a sterile polypropylene bottle, to which 300 ml of purified water was added at room temperature and stirred slowly until a clear solution was obtained. The pH was measured and found to be 5.5. Without adding any acid, the volume was adjusted to 350 ml with purified water. The pH was measured and found to be 5.5.

reactant | trehalose dihydrate | 17.84 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O.O.O
reactant | glycine | 4.03 g | NCC(=O)O | C2H5NO2
reactant | polypropylene | C(C(C)[*:2])[*:1]
solvent | water | O | H2O
solvent | water | 300 ml | O | H2O
product | Trehalose Glycine | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O.NCC(=O)O | InChI=1S/C12H22O11.C2H5NO2/c13-1-3-5(15)7(17)9(19)11(21-3)23-12-10(20)8(18)6(16)4(2-14)22-12;3-1-2(4)5/h3-20H,1-2H2;1,3H2,(H,4,5)/t3-,4-,5-,6-,7+,8+,9-,10-,11-,12-;/m1./s1
